US04719200
L-alanyl-L-prolyl-L-proline (3.00 g, 10.6 m mole) was dissolved in 1N aqueous sodium hydroxide (10.6 ml, 10.6 m mole), and phenylisocyanate (1.89 g, 15.9 m mole) was gradually added thereto while stirring and coating with ice. After that, the reaction solution was stirred overnight at room temperature. The pH value of the solution was about 7 and white crystals were given in the solution. The solution was adjusted to pH 12 with 1N aqueous sodium hydroxide and the insoluble matters were filtered off. The filtrate was washed with two 50 ml portions of ether and 6N hydrochloric acid was added thereto to adjust the pH value to 1.0. The solution was extracted with two 100 ml portions of ethyl acetate in order to separate the products. The ethyl acetate layer was washed with 10% aqueous sodium chloride, dried over anhydrous sodium sufate, and concentrated under reduced pressure. To the thus concentrated matter with crystals, ether was added to effect further crystallization. The crystals were obtained by filtration and dried to give N-phenylcarbamoyl-L-alanyl-L-prolyl-L-proline (2.50 g).

reactant | L-alanyl-L-prolyl-L-proline | 3.00 g | N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C13H21N3O4
reactant | phenylisocyanate | 1.89 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | sodium hydroxide | 1N, 10.6 ml | [OH-].[Na+]
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | N-phenylcarbamoyl-L-alanyl-L-prolyl-L-proline | 2.50 g | C1(=CC=CC=C1)NC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C20H26N4O5
